US06596716B2
A. 2-(2-thien-3-yl-5-pyridyl)propanenitrile
A solution of 960 mg (4.8 mmol) of 5-acetyl-2-bromopyridine, 676 mg (5.28 mmol) of thiophene 3-boronic acid, 222 mg (0.19 mmol) of tetrakis(triphenylphosphine) palladium and 995 mg (7.2 mmol)of potasium carbonate in 13 ml of dioxane and 3 ml of water, was heated at 90° C. overnight. Brine was added and extracted three times with ethyl acetate. The organic phase was dried over Na2SO4, filtered and concentrated in vacuo. To a solution of the crude and 475 mg (14.4 mmol) of lithium cyanide in 16 ml of THF, 2.2 ml (14.4 mmol) of diethylcyanophosphonate was added neat at ambient temperature. The mixture was stirred at ambient temperature for 30 min. Water was added and extracted with a 1:1 solution of ethyl acetate/hexane. The organic solution was dried over Na2SO4 filtered and concentrated in vacuo. The crude was disolved in 10 ml of THF and added dropwise to a solution of samarium iodide, prepared from 3.32 g (22.08 mmol) of samarium and 3.89 g (13.8 mmol) of 1,2-diiodoethane. The mixture was stirred for 1 h. A 2.5 N solution of hydrochloric acid was added and extracted three times with diethyl ether. The organic phase was washed with a 1 N solution of sodium thiosulfate. The organic solution was dried over Na2SO4 filtered and concentrated in vacuo. Chromatography (100 g of silica gel, 25% ethyl acetate/hexane) of the residue afforded 225 mg (22%) of the title compound.

reactant | 5-acetyl-2-bromopyridine | 4.8 mmol, 960 mg | C(C)(=O)C=1C=CC(=NC1)Br | C7H6BrNO
reactant | thiophene 3-boronic acid | 5.28 mmol, 676 mg | S1C=C(C=C1)B(O)O | C4H5BO2S
reactant | potasium carbonate | 7.2 mmol, 995 mg | C([O-])([O-])=O.[K+].[K+]
reactant | lithium cyanide | 14.4 mmol, 475 mg | [C-]#N.[Li+]
reactant | diethylcyanophosphonate | 14.4 mmol, 2.2 ml | C(C)OP(OCC)(=O)C#N | C5H10NO3P
reactant | samarium | 22.08 mmol, 3.32 g | [Sm] | Sm
reactant | 1,2-diiodoethane | 13.8 mmol, 3.89 g | ICCI | C2H4I2
reactant | hydrochloric acid | Cl | ClH
solvent | dioxane | 13 ml | O1CCOCC1 | C4H8O2
solvent | water | 3 ml | O | H2O
solvent | Brine | [Cl-].[Na+].O
solvent | THF | 16 ml | C1CCOC1 | C4H8O
catalyst | tetrakis(triphenylphosphine) palladium | 0.19 mmol, 222 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 2-(2-thien-3-yl-5-pyridyl)propanenitrile | 225 mg, 22% | S1C=C(C=C1)C1=NC=C(C=C1)C(C#N)C | C12H10N2S
